*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:03:03 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TBUFX6"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TBUFX6 Y A OE
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 3.79832e-16
*|P (Y X 0 3.5000 0.8550)
C1 Y VSS 3.79832e-16
*
*|NET A 1.40619e-15
*|P (A X 0 0.7000 0.8550)
*|I (Mmn3@1:g Mmn3@1 g X 0 0.3575 0.5050)
*|I (Mmn3@2:g Mmn3@2 g X 0 0.6225 0.5050)
*|I (Mmn3:g Mmn3 g X 0 1.0575 0.5075)
*|I (Mmn1:g Mmn1 g X 0 2.0425 0.4850)
*|I (Mmp3@1:g Mmp3@1 g X 0 0.4725 1.1700)
*|I (Mmp1@1:g Mmp1@1 g X 0 2.0875 1.1600)
*|I (Mmp1@2:g Mmp1@2 g X 0 2.3625 1.1600)
*|I (Mmp1:g Mmp1 g X 0 2.9425 1.1600)
*|S (A:3 0.6225 0.6875)
C2 Mmp1:g VSS 7.94912e-17
C3 Mmp1@2:g VSS 4.76058e-17
C4 Mmp1@1:g VSS 7.20938e-17
C5 Mmp3@1:g VSS 4.50755e-16
C6 Mmn1:g VSS 5.22304e-16
C7 Mmn3:g VSS 8.48524e-17
C8 Mmn3@2:g VSS 3.56188e-17
C9 Mmn3@1:g VSS 6.46622e-17
C10 A:3 VSS 2.53078e-17
C11 A VSS 2.34996e-17
Rl1 A:3 Mmn3@1:g 123.502777 $W=0.039
Rl2 A:3 Mmn3@2:g 35.771992 $W=0.039
Rl3 Mmp3@1:g A:3 58.643974 $W=0.039
Rl4 Mmp3@1:g Mmn3:g 156.092468 $W=0.039
Rl5 Mmp1@1:g Mmn1:g 176.488724 $W=0.039
Rl6 Mmp1@2:g Mmn1:g 178.693146 $W=0.039
Rl7 Mmn1:g Mmp1:g 184.181030 $W=0.039
Rk8 Mmp3@1:g A 0.013243 $W=0.13
Rk9 Mmp3@1:g Mmn1:g 0.898087 $W=0.08
*
*|NET OE 7.90309e-16
*|P (OE X 0 0.3000 0.8550)
*|I (Mmn4@1:g Mmn4@1 g X 0 0.2525 0.5050)
*|I (Mmn4@2:g Mmn4@2 g X 0 0.7475 0.5050)
*|I (Mmn4:g Mmn4 g X 0 0.9525 0.5075)
*|I (Mmn0:g Mmn0 g X 0 1.3425 0.5225)
*|I (Mmp0:g Mmp0 g X 0 1.5575 1.1475)
*|S (OE:11 1.3425 0.6925)
*|S (OE:12 1.2000 0.7000)
C12 Mmp0:g VSS 6.28533e-17
C13 Mmn0:g VSS 3.41186e-17
C14 Mmn4:g VSS 4.03479e-17
C15 Mmn4@2:g VSS 5.05528e-17
C16 Mmn4@1:g VSS 6.11797e-17
C17 OE:11 VSS 3.01856e-17
C18 OE:12 VSS 9.31377e-17
C19 OE VSS 4.17934e-16
Rl10 OE:11 OE:12 81.870010 $W=0.039
Rl11 OE Mmn4@1:g 102.614853 $W=0.039
Rl12 OE Mmn4@2:g 83.564880 $W=0.039
Rl13 OE Mmn4:g 37.479649 $W=0.039
Rl14 OE:11 Mmn0:g 30.450726 $W=0.039
Rl15 Mmp0:g OE:11 205.747116 $W=0.039
Rk16 OE OE:12 0.190884 $W=0.08
*
*|NET 12 1.64153e-18
*|I (Mmn4@1:s Mmn4@1 s X 0 0.3050 0.5050)
*|I (Mmn3@1:d Mmn3@1 d X 0 0.3050 0.5050)
C20 Mmn4@1:s VSS 1.64153e-18
Rmw17 Mmn3@1:d Mmn4@1:s 0.001000 $W=1
*
*|NET pon 1.20269e-15
*|I (Mmn4@1:d Mmn4@1 d X 0 0.1600 0.5050)
*|I (Mmn4@2:d Mmn4@2 d X 0 0.8800 0.5075)
*|I (Mmp4@1:d Mmp4@1 d X 0 0.3625 1.1700)
*|I (Mmp5@1:g Mmp5@1 g X 0 3.1775 1.0950)
*|S (pon:19 0.1500 0.4950)
C21 Mmp5@1:g VSS 5.55488e-16
C22 Mmp4@1:d VSS 4.46517e-16
C23 Mmn4@2:d VSS 9.06075e-17
C24 Mmn4@1:d VSS 1.10076e-16
Rk18 pon:19 Mmn4@1:d 75.000000 $W=0.09
Rk19 pon:19 Mmn4@2:d 75.518028 $W=0.08
Rk20 pon:19 Mmp4@1:d 0.586808 $W=0.09
Rk21 Mmp4@1:d Mmp5@1:g 47.190865 $W=0.06
*
*|NET 13 2.34057e-18
*|I (Mmn3@2:d Mmn3@2 d X 0 0.6850 0.5050)
*|I (Mmn4@2:s Mmn4@2 s X 0 0.6850 0.5050)
C25 Mmn3@2:d VSS 2.34057e-18
Rmw22 Mmn4@2:s Mmn3@2:d 0.001000 $W=1
*
*|NET 14 0
*|I (Mmn4:s Mmn4 s X 0 1.0050 0.5075)
*|I (Mmn3:d Mmn3 d X 0 1.0050 0.5075)
Rmw23 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET OEb 6.73612e-16
*|I (Mmn0:d Mmn0 d X 0 1.4875 0.5225)
*|I (Mmn2:g Mmn2 g X 0 1.8125 0.4850)
*|I (Mmp0:d Mmp0 d X 0 1.6500 1.1475)
*|I (Mmp2@1:g Mmp2@1 g X 0 1.9825 1.1600)
*|I (Mmp2@2:g Mmp2@2 g X 0 2.5925 1.1600)
*|I (Mmp2:g Mmp2 g X 0 2.8025 1.1600)
*|S (OEb:11 1.6900 0.7050)
C26 Mmp2:g VSS 4.87488e-17
C27 Mmp2@2:g VSS 3.3048e-17
C28 Mmp2@1:g VSS 9.05948e-17
C29 Mmp0:d VSS 6.03981e-17
C30 Mmn2:g VSS 3.69918e-16
C31 Mmn0:d VSS 4.27663e-17
C32 OEb:11 VSS 2.81379e-17
Rl24 Mmp2@1:g Mmn2:g 132.257950 $W=0.039
Rl25 Mmn2:g Mmp2@2:g 107.487366 $W=0.039
Rl26 Mmp2:g Mmn2:g 137.695068 $W=0.039
Rk27 OEb:11 Mmn0:d 75.222198 $W=0.095
Rk28 OEb:11 Mmn2:g 0.091384 $W=0.1
Rk29 OEb:11 Mmp0:d 62.284184 $W=0.09
*
*|NET non 8.2951e-16
*|I (Mmn2:d Mmn2 d X 0 1.9275 0.4850)
*|I (Mmn5@1:g Mmn5@1 g X 0 3.2275 0.4400)
*|I (Mmp2@1:d Mmp2@1 d X 0 1.8900 1.1600)
*|I (Mmp2@2:d Mmp2@2 d X 0 2.6975 1.1600)
*|S (non:7 3.1500 0.6700)
*|S (non:14 2.7550 0.9100)
*|S (non:16 2.8450 0.5925)
C33 Mmp2@2:d VSS 4.84807e-17
C34 Mmp2@1:d VSS 1.28437e-16
C35 Mmn5@1:g VSS 2.23281e-16
C36 Mmn2:d VSS 1.3873e-16
C37 non:16 VSS 8.42277e-17
C38 non:14 VSS 1.01411e-16
C39 non:7 VSS 1.04943e-16
Rl30 Mmn5@1:g non:7 56.151924 $W=0.094
Rk31 non:16 non:7 0.156152 $W=0.0885
Rk32 non:16 non:14 0.250356 $W=0.09
Rk33 Mmn2:d non:16 0.025398 $W=0.24
Rk34 non:14 Mmp2@1:d 62.777321 $W=0.08
Rk35 non:14 Mmp2@2:d 62.132812 $W=0.0885
*
*|NET 7 2.23816e-18
*|I (Mmp2@1:s Mmp2@1 s X 0 2.0350 1.1600)
*|I (Mmp1@1:d Mmp1@1 d X 0 2.0350 1.1600)
C40 Mmp2@1:s VSS 2.23816e-18
Rmw36 Mmp1@1:d Mmp2@1:s 0.001000 $W=1
*
*|NET 6 6.89697e-18
*|I (Mmp1@2:d Mmp1@2 d X 0 2.4775 1.1600)
*|I (Mmp2@2:s Mmp2@2 s X 0 2.4775 1.1600)
C41 Mmp1@2:d VSS 6.89697e-18
Rmw37 Mmp2@2:s Mmp1@2:d 0.001000 $W=1
*
*|NET 8 2.90695e-18
*|I (Mmp2:s Mmp2 s X 0 2.8725 1.1600)
*|I (Mmp1:d Mmp1 d X 0 2.8725 1.1600)
C42 Mmp2:s VSS 2.90695e-18
Rmw38 Mmp1:d Mmp2:s 0.001000 $W=1
*
*Instance Section
*
Mmn4@1	Mmn4@1:d	Mmn4@1:g	Mmn4@1:s	VSS	g45n1hvt
+ L=0.045U	W=0.17U
+ AD=0.0238P	AS=0.0102P	PD=0.62U	PS=0.46U
+ fw=1.7e-07 sa=1.4e-07 sb=1.26618e-06 sca=13.6381 scb=0.0141729 scc=0.000783402
Mmn3@1	Mmn3@1:d	Mmn3@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.17U
+ AD=0.0102P	AS=0.0512P	PD=0.46U	PS=1.01U
+ fw=1.7e-07 sa=2.45e-07 sb=1.16118e-06 sca=13.6381 scb=0.0141729 scc=0.000783402
Mmn3@2	Mmn3@2:d	Mmn3@2:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.17U
+ AD=0.0136P	AS=0.0512P	PD=0.5U	PS=1.01U
+ fw=1.7e-07 sa=5.1e-07 sb=8.96176e-07 sca=13.6381 scb=0.0141729 scc=0.000783402
Mmn4@2	Mmn4@2:d	Mmn4@2:g	Mmn4@2:s	VSS	g45n1hvt
+ L=0.045U	W=0.17U
+ AD=0.0277P	AS=0.0136P	PD=0.67U	PS=0.5U
+ fw=1.7e-07 sa=6.35e-07 sb=7.71176e-07 sca=13.6381 scb=0.0141729 scc=0.000783402
Mmn4	Mmn4@2:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.175U
+ AD=0.0277P	AS=0.0105P	PD=0.67U	PS=0.47U
+ fw=1.75e-07 sa=8.18857e-07 sb=5.68143e-07 sca=13.8761 scb=0.0144385 scc=0.000829722
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.175U
+ AD=0.0105P	AS=0.039P	PD=0.47U	PS=0.83U
+ fw=1.75e-07 sa=9.23857e-07 sb=4.63143e-07 sca=13.8761 scb=0.0144385 scc=0.000829722
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03553P	AS=0.039P	PD=0.78U	PS=0.83U
+ fw=1.45e-07 sa=1.20448e-06 sb=2.45e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn5@1	Y	Mmn5@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.04032P	PD=0.84U	PS=0.83833U	M=6
+ fw=2.6e-07 sa=1.03471e-06 sb=1.165e-06 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.17U
+ AD=0.02933P	AS=0.05872P	PD=0.685U	PS=1.37U	M=2
+ fw=1.7e-07 sa=1e-07 sb=2e-06 sca=12.2924 scb=0.0124108 scc=0.000563444
Mmn2@2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.175U
+ AD=0.028P	AS=0.07605P	PD=0.67U	PS=1.42U
+ fw=1.75e-07 sa=1.06371e-06 sb=1.59e-06 sca=12.1767 scb=0.0122352 scc=0.000549928
Mmn1	Mmn2:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.17U
+ AD=0.02932P	AS=0.08005P	PD=0.685U	PS=1.47U	M=2
+ fw=1.7e-07 sa=3.3e-07 sb=2e-06 sca=12.2924 scb=0.0124108 scc=0.000563444
Mmn1@2	Mmn2:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.175U
+ AD=0.028P	AS=0.03912P	PD=0.67U	PS=0.87U
+ fw=1.75e-07 sa=1.26871e-06 sb=1.385e-06 sca=12.1767 scb=0.0122352 scc=0.000549928
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.09455P	PD=0.71U	PS=1.62U
+ fw=2.15e-07 sa=1.445e-06 sb=1.4e-07 sca=14.5646 scb=0.0142004 scc=0.000753562
Mmp2@1	Mmp2@1:d	Mmp2@1:g	Mmp2@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0156P	PD=0.8U	PS=0.64U
+ fw=2.6e-07 sa=1.4e-07 sb=2e-06 sca=14.3604 scb=0.0136769 scc=0.000743805
Mmp1@1	Mmp1@1:d	Mmp1@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0598P	PD=0.64U	PS=0.98U
+ fw=2.6e-07 sa=2.45e-07 sb=2e-06 sca=14.3604 scb=0.0136769 scc=0.000743805
Mmp1@2	Mmp1@2:d	Mmp1@2:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.26U
+ AD=0.0481P	AS=0.0598P	PD=0.89U	PS=0.98U
+ fw=2.6e-07 sa=5.2e-07 sb=1.98e-06 sca=14.3604 scb=0.0136769 scc=0.000743805
Mmp2@2	Mmp2@2:d	Mmp2@2:g	Mmp2@2:s	VDD	g45p1hvt
+ L=0.045U	W=0.26U
+ AD=0.0429P	AS=0.0481P	PD=0.85U	PS=0.89U
+ fw=2.6e-07 sa=7.5e-07 sb=1.75e-06 sca=14.3604 scb=0.0136769 scc=0.000743805
Mmp2	Mmp2@2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.26U
+ AD=0.0429P	AS=0.0247P	PD=0.85U	PS=0.71U
+ fw=2.6e-07 sa=9.6e-07 sb=1.54e-06 sca=14.3604 scb=0.0136769 scc=0.000743805
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.26U
+ AD=0.0247P	AS=0.0624P	PD=0.71U	PS=1.16U
+ fw=2.6e-07 sa=1.1e-06 sb=1.4e-06 sca=14.3604 scb=0.0136769 scc=0.000743805
Mmp5@1	Y	Mmp5@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.0611P	PD=1.1U	PS=1.10333U	M=6
+ fw=3.9e-07 sa=9.23333e-07 sb=1.165e-06 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp4@1	Mmp4@1:d	OE	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.26U
+ AD=0.0429P	AS=0.03987P	PD=0.85U	PS=0.82667U	M=3
+ fw=2.6e-07 sa=1.4e-07 sb=1.40433e-06 sca=23.1083 scb=0.0266933 scc=0.00125052
Mmp3@1	Mmp4@1:d	Mmp3@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.26U
+ AD=0.0429P	AS=0.05925P	PD=0.85U	PS=1.1U	M=3
+ fw=2.6e-07 sa=3.6e-07 sb=1.18433e-06 sca=16.3479 scb=0.0155274 scc=0.000646302
.ENDS
.END
